US05340808
Ethyl 3-hydroxypyridazine-6-carboxylate [22.00 g, 0.13 mol, prepared from 3-hydroxypyridazine-6-carboxylic acid according to the procedure of Libermann, D. and Rouaix, A. (Bull. Soc. Chim . Fr. 1959, 1793-1798)] and phosphorous oxychloride (122 mL, 1.31 mol) were heated at 110° C. (via an oil bath) for 1 h. The mixture was cooled and concentrated under reduced pressure, which removed the excess phosphorous oxychloride. The residue was dissolved into chloroform, cooled, and carefully washed with saturated sodium bicarbonate solution. The chloroform extract was dried (MgSO4) , filtered, concentrated and recrystallized from ethyl acetate-diisopropyl ether to afford ethyl 6-chloro-3-pyridazinecarboxylate as tan needles, mp 145°-150° C.

reactant | Ethyl 3-hydroxypyridazine-6-carboxylate | OC=1N=NC(=CC1)C(=O)OCC | C7H8N2O3
reactant | 3-hydroxypyridazine-6-carboxylic acid | OC=1N=NC(=CC1)C(=O)O | C5H4N2O3
reactant | phosphorous oxychloride | 1.31 mol, 122 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
product | ethyl 6-chloro-3-pyridazinecarboxylate | ClC1=CC=C(N=N1)C(=O)OCC | C7H7ClN2O2
